US04891433
Synthesis of methyl 5-(1 -methoxycarbonylethyl)-2-phenylthiophenylacetate
To a stirred mixture of 15.72 g (50 mmol.) of methyl 5-propionyl-2-phenylthiophenylacetate, 13.32 g (125.5 mmol.) of methyl orthoformate, 20 ml of methanol and 20 ml ethylene tetrachloride was dropwise added under stirring 8.39 g (52.5 mmol.) of bromine for a period of 30 minutes. The resulting mixture was further stirred at room temperature for 30 minutes, and then was heated slowly to 110° C. for 1 hour, under distilling off materials having a low boiling point. To the reaction mixture was added 0.90 g (4.0 mmol.) of zinc bromide, and the mixture was heated to 110° C. under reflux for 3 hours. The reaction mixture was cooled, and 75 ml of water and 40 ml of methylene chloride were added. The organic layer was separated and the solvent was distilled off under reduced pressure. The residue was distilled under reduced pressure to obtain 13.78 g of the desired product as a yellow oil (yield 80%, b.p. 212°-215° C./2 mmHg).

reactant | methyl 5-propionyl-2-phenylthiophenylacetate | 50 mmol, 15.72 g | C(CC)(=O)C=1C=CC(=C(C1)CC(=O)OC)SC1=CC=CC=C1 | C18H18O3S
reactant | methyl orthoformate | 125.5 mmol, 13.32 g | C(OC)([O-])[O-]
reactant | ethylene tetrachloride | 20 ml | [Cl-].[Cl-].[Cl-].[Cl-].C=C
reactant | bromine | 52.5 mmol, 8.39 g | BrBr | Br2
catalyst | zinc bromide | 4.0 mmol, 0.90 g | [Br-].[Zn+2].[Br-]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 75 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | methyl 5-(1 -methoxycarbonylethyl)-2-phenylthiophenylacetate | 13.78 g, yield 80% | COC(=O)C(C)C=1C=CC(=C(C1)CC(=O)OC)SC1=CC=CC=C1 | C19H20O4S
